US05843989
To a solution of 6-bromo-2,2-dimethyl-2H-pyrano[2,3-b]pyridine (1.2 g, prepared as in Synthetic Communs. 18, 1111 (1988)) in dry ether (30 ml) at -78° C. under Argon, was added dropwise a 2.5M solution of n-BuLi in hexanes (2 ml) over 5 min. followed by N,N-dimethylacetamide (0.55 ml). The resulting solution was stirred and allowed to attain room temperature. Saturated ammonium chloride solution (2 ml) was added to the solution. Extraction via ethyl acetate gave a crude solid (0.93 g) which was flash chromatographed on silica gel using ethyl acetate-hexane (3:7) as eluant to give acetylpyranopyridine (0.62 g) as a colourless solid.

reactant | 6-bromo-2,2-dimethyl-2H-pyrano[2,3-b]pyridine | 1.2 g | BrC=1C=C2C(=NC1)OC(C=C2)(C)C | C10H10BrNO
reactant | n-BuLi | [Li]CCCC
reactant | N,N-dimethylacetamide | 0.55 ml | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
solvent | ether | 30 ml | CCOCC | C4H10O
product | acetylpyranopyridine | 0.62 g | C(C)(=O)C1C=CC2=C(C=CC=N2)O1 | C10H9NO2
